US05057513
A mixture of 1-(1-pyrrolidinyl)cyclohexane (85.4 g) and benzyl chloride (100 ml) in dioxane (400 ml) was heated under reflux for 23 hours under nitrogen. Water (100 ml) was then added and the brown oil was distilled to give (2RS)-2-phenylmethylcyclohexanone (47.1 g).

reactant | 1-(1-pyrrolidinyl)cyclohexane | 85.4 g | N1(CCCC1)C1CCCCC1 | C10H19N
reactant | benzyl chloride | 100 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | Water | 100 ml | O | H2O
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | (2RS)-2-phenylmethylcyclohexanone | 47.1 g | C1(=CC=CC=C1)CC1C(CCCC1)=O | C13H16O
